US04510136
Preparation of bis(4-Fluorophenyl)hydroxy(1H-1,2,4-triazol-1-ylmethyl)silane
A mixture of 10.0 g (30.6 mmol) of chloromethyl[bis(4-fluorophenyl)](2-propoxy)silane and 3.1 g (30.6 mmol) of 1,2,4-triazole sodium salt in dimethylformamide was stirred at 80°-90° under nitrogen for 2 hours. Workup as in Example 37 gave a waxy solid that was washed with 1:1 ether-hexanes to leave 3.0 g (30%) of the title compound. Recrystallization from chlorobutane gave a purer sample: m.p. 130°-131°; nmr (CDCl3) 4.1 (2H, s), 5.8 (1H, broad s), 7.1 (4H, t), 7.7 (4H, d of d), 7.8 (1H, s), 8.0 (1H, s).

reactant | chloromethyl[bis(4-fluorophenyl)](2-propoxy)silane | 30.6 mmol, 10.0 g | ClC[Si](OC(C)C)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H17ClF2OSi
reactant | 1,2,4-triazole sodium salt | 30.6 mmol, 3.1 g | [Na].N1N=CN=C1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | bis(4-Fluorophenyl)hydroxy(1H-1,2,4-triazol-1-ylmethyl)silane | 3.0 g, 30% | FC1=CC=C(C=C1)[Si](CN1N=CN=C1)(O)C1=CC=C(C=C1)F | C15H13F2N3OSi
